US08604038B2
Step B: Tert-butyl (2R,5S)-2-[(R)-{[tert-butyl(dimethyl)silyl]oxy}(phenyl)methyl]-5-(4-(methyl[1-(pyridine-2-yl)ethyl]carbamoyl}benzyl)pyrrolidine-1-carboxylate
To tert-butyl (2R,5S)-2-[(R)-{[tert-butyl(dimethyl)silyl]oxy}(phenyl)methyl]-5-(4-{[1-(pyridine-2-yl)ethyl]carbamoyl}benzyl)pyrrolidine-1-carboxylate (350 mg, 0.556 mmol) in tetrahydrofuran (1.1 mL), was added sodium hydride (26.7 mg of a 60 wt % dispersion, 0.667 mmol) at 0° C. The reaction was stirred for 30 minutes before methyl iodide (38.2 μl, 0.611 mmol) was added. The resulting red colored reaction was stirred for 3 hours before being quenched by pouring into a separatory funnel containing water and was extracted with ethyl acetate (3×50 mL). The organic extracts were combined and dried with Na2SO4, filtered, and evapourated in vacuo and taken directly to the next step. LC-MS=644.3 (M+1)+.

reactant | tert-butyl (2R,5S)-2-[(R)-{[tert-butyl(dimethyl)silyl]oxy}(phenyl)methyl]-5-(4-{[1-(pyridine-2-yl)ethyl]carbamoyl}benzyl)pyrrolidine-1-carboxylate | 0.556 mmol, 350 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@@H]1N([C@@H](CC1)CC1=CC=C(C=C1)C(NC(C)C1=NC=CC=C1)=O)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C37H51N3O4Si
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 0.611 mmol, 38.2 μl | CI | CH3I
solvent | tetrahydrofuran | 1.1 mL | O1CCCC1 | C4H8O
product | Tert-butyl (2R,5S)-2-[(R)-{[tert-butyl(dimethyl)silyl]oxy}(phenyl)methyl]-5-(4-(methyl[1-(pyridine-2-yl)ethyl]carbamoyl}benzyl)pyrrolidine-1-carboxylate | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@@H]1N([C@@H](CC1)CC1=CC=C(C=C1)C(N(C(C)C1=NC=CC=C1)C)=O)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C38H53N3O4Si
